US05502054
By the method of Example 1, Step A, 3.63 g (0.0363 mole) of chromium trioxide, 5 mL of water, 5.6 g (0.056 mole) of 18M sulfuric acid, 10.4 mL of water, and 11.4 g (0.052 mole) of 4-(2,4-dichlorophenyl)-1-butanol in 332 mL of acetone are reacted, yielding 4-(2,4-dichlorophenyl)butanoic acid.

reactant | water | 5 mL | O | H2O
reactant | sulfuric acid | 0.056 mole, 18M, 5.6 g | S(O)(O)(=O)=O | H2O4S
reactant | water | 10.4 mL | O | H2O
reactant | 4-(2,4-dichlorophenyl)-1-butanol | 0.052 mole, 11.4 g | ClC1=C(C=CC(=C1)Cl)CCCCO | C10H12Cl2O
solvent | acetone | 332 mL | CC(=O)C | C3H6O
catalyst | chromium trioxide | 0.0363 mole, 3.63 g | [O-2].[O-2].[O-2].[Cr+6]
product | 4-(2,4-dichlorophenyl)butanoic acid | ClC1=C(C=CC(=C1)Cl)CCCC(=O)O | C10H10Cl2O2
